US08609647B2
(11) Optically-Active Compound of 7-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester
1,7-Diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester (51 mg) was mixed with 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (36 mg), potassium carbonate (59 mg) and water (1 ml), and the mixture was stirred for 1.5 hours with refluxing. The mixture was cooled to room temperature, and thereto was added water. The mixture was extracted with chloroform. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1, followed by chloroform/methanol=20/1) to give the titled compound (60 mg).

reactant | 1,7-Diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester | 51 mg | C(C)(C)(C)OC(=O)N1CCCC12CNCCC2 | C13H24N2O2
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 36 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | potassium carbonate | 59 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | 7-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(=O)N1CCCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C19H27N5O2
